US05708008
5-(isoxazol-5-oyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 13 mg (0.056 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 8.21 mg (0.062 mMol) isoxazole-5-carbonyl chloride, 10.4 mg (57%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.056 mMol, 13 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | isoxazole-5-carbonyl chloride | 0.062 mMol, 8.21 mg | O1N=CC=C1C(=O)Cl | C4H2ClNO2
product | 5-(isoxazol-5-oyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 10.4 mg, 57% | O1N=CC=C1C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C18H20N4O2
